US06329389B1
Ethyl 3,4-dihydro-3-oxo-2-quinoxalinecarboxylate
Diethyl ketomalonate (8 g) was added to an ethanol (100 ml) solution of 1,2-phenylenediamine (5 g). The reaction mixture was stirred at 50° C. for 14 hours. The precipitated crystals were filtrated, which was washed with IPE to obtain the entitled compound (8.2 g).

reactant | Diethyl ketomalonate | 8 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | 1,2-phenylenediamine | 5 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 3,4-dihydro-3-oxo-2-quinoxalinecarboxylate | 8.2 g | O=C1C(=NC2=CC=CC=C2N1)C(=O)OCC | C11H10N2O3
